US08563565B2
(4) Synthesis of (±)-7-bromo-5-(2,4-dimethoxybenzyl)-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one
(±)-5-(4-bromo-2-chlorophenyl)-N-(2,4-dimethoxybenzyl)-1-(tetrahydrofuran-3-yl)-1H-pyrazole-4-carboxamide (1.26 g) was dissolved in THF (25 mL), and KTB (597 mg) was added at 0° C. The mixture was stirred for 12 hours while gradually warming to room temperature. The reaction mixture was cooled to 0° C., and water was added, followed by filtration. The filtration residue was separately stored. The filtrate was extracted with ethyl acetate, and the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 10% to 70%). The resulting fraction and the filtration residue obtained above were combined and concentrated to give the title compound (488 mg).

reactant | (±)-5-(4-bromo-2-chlorophenyl)-N-(2,4-dimethoxybenzyl)-1-(tetrahydrofuran-3-yl)-1H-pyrazole-4-carboxamide | 1.26 g | BrC1=CC(=C(C=C1)C1=C(C=NN1C1COCC1)C(=O)NCC1=C(C=C(C=C1)OC)OC)Cl | C23H23BrClN3O4
reactant | water | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (±)-7-bromo-5-(2,4-dimethoxybenzyl)-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 488 mg | BrC=1C=CC=2C3=C(C(N(C2C1)CC1=C(C=C(C=C1)OC)OC)=O)C=NN3C3COCC3 | C23H22BrN3O4
